US07745477B2
a) Preparation of [2-(3-bromo-phenyl)-ethyl]-(4-tert-butyl-benzyl)-carbamic acid tert-butyl ester
To a solution of [2-(3-bromo-phenyl)-ethyl]-(4-tert-butyl-benzyl)-amine (3544 mg, 10.23 mmol) in DCM (30 ml) was added di-tert-butyl-dicarbonate (2507 mg, 11.3 mmol) at 0° C. The reaction mixture was stirred for 30 min at 0° C. and then at RT over night. Saturated NH4Cl solution was added and the mixture was extracted with DCM. The combined organic extracts were washed with 10% KHCO3 solution and brine and were dried (Na2SO4). After evaporation of the solvent the crude title compound (4722 mg) was obtained as a colorless oil. MS (ISP) 446.4 (M+H)+.

reactant | [2-(3-bromo-phenyl)-ethyl]-(4-tert-butyl-benzyl)-amine | 10.23 mmol, 3544 mg | BrC=1C=C(C=CC1)CCNCC1=CC=C(C=C1)C(C)(C)C | C19H24BrN
reactant | di-tert-butyl-dicarbonate | 11.3 mmol, 2507 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | [2-(3-bromo-phenyl)-ethyl]-(4-tert-butyl-benzyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC1=CC=C(C=C1)C(C)(C)C)CCC1=CC(=CC=C1)Br)=O | C24H32BrNO2
